US07482337B2
1-(2-{2-[2-(tert.-butyloxycarbonylamino)-ethoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine
187 mg of tert.-butyl 2-bromo-ethyl-carbaminate are added to 400 mg of 1-[2-(2-hydroxy-phenyl)-2-oxo-ethyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine and 150 mg of potassium carbonate in 6 ml N,N-dimethylformamide and the reaction mixture is stirred overnight at 55° C. Then a further 90 mg of tert.-butyl 2-bromo-ethyl-carbaminate are added. After another eight hours at 55° C. the reaction is complete. The cooled reaction mixture is combined with water, the precipitate formed is suction filtered, washed with water and dried.

reactant | 1-[2-(2-hydroxy-phenyl)-2-oxo-ethyl]-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine | 400 mg | OC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C28H34N6O6
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-(2-{2-[2-(tert.-butyloxycarbonylamino)-ethoxy]-phenyl}-2-oxo-ethyl)-3-methyl-7-(2-butyn-1-yl)-8-[3-(tert.-butyloxycarbonyl-amino)-piperidin-1-yl]-xanthine | C(C)(C)(C)OC(=O)NCCOC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)C)=O | C35H47N7O8
